US04985427
Dihydro-4-methyl-1-[3-(trifluoromethyl)phenyl]-1,2,4-triazine-3,5-(2H,4H)-dione
Methyl [1-[3-(trifluoromethyl)phenyl]hydrazino]acetate (5 g) was treated with methyl isocyanate (3.05 ml) and then with sodium methoxide in methanol (60 ml; from sodium (1.16 g)) according to the method of Example 1. The product was purified by FCC eluting with System A (19:1) to give a solid, which was crystallised from System B to give the title compound (1.3 g), m.p. 163°-165°.

reactant | Methyl [1-[3-(trifluoromethyl)phenyl]hydrazino]acetate | 5 g | FC(C=1C=C(C=CC1)N(N)CC(=O)OC)(F)F | C10H11F3N2O2
reactant | methyl isocyanate | 3.05 ml | CN=C=O | C2H3NO
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 60 ml, 1.16 g | CO | CH4O
product | Dihydro-4-methyl-1-[3-(trifluoromethyl)phenyl]-1,2,4-triazine-3,5-(2H,4H)-dione | 1.3 g | CN1C(NN(CC1=O)C1=CC(=CC=C1)C(F)(F)F)=O | C11H10F3N3O2
